US07667041B2
Synthesis of 1-(2-fluorophenyl)-1-methylethylamine
t-Butyl alcohol (30 mL), diphenylphosphoryl azide (1.63 mL) and triethylamine (1.05 mL) were added to a solution of 2-(2-fluorophenyl)-2-methylpropionic acid (1.15 g) in toluene (60 mL), and the reaction solution was heated to reflux overnight. The reaction solution was returned to room temperature, and water and ethyl acetate were added thereto and the organic layer was partitioned. The resulting organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. 10 mL of 5 N hydrochloric acid was added to a solution of the residue in THF (5 mL), and the reaction solution was heated to reflux for 3 hours. The reaction solution was returned to room temperature, made basic with 5 N sodium hydroxide, and then extracted with ethyl acetate. The resulting organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 735 mg of the title compound. The physical properties of the compound are as follows.

reactant | t-Butyl alcohol | 30 mL | C(C)(C)(C)O | C4H10O
reactant | diphenylphosphoryl azide | 1.63 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.05 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(2-fluorophenyl)-2-methylpropionic acid | 1.15 g | FC1=C(C=CC=C1)C(C(=O)O)(C)C | C10H11FO2
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(2-fluorophenyl)-1-methylethylamine | 735 mg | FC1=C(C=CC=C1)C(C)(C)N | C9H12FN
